US07943607B2
3-[(2,3-Dimethyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide
Ammonium formate (122 mg, 1.9 mmol) was added in one portion to a solution of 3-[(8-chloro-2,3-dimethyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide (100 mg, 0.19 mmol) in ethanol (3 mL). The reaction was blanketed with argon and 10% palladium on carbon (20 mg) was added. The mixture was heated to 140° C. for 10 minutes in a Smith Creator microwave after which complete conversion to desired product was observed. The reaction mixture was filtered through diatomaceous earth and the filter pad was washed well with ethyl acetate. The filtrate was evaporated in vacuo and the residue purified by column chromatography on silica, eluting with 60-100% ethyl acetate in hexanes, and then by chromatography on alumina, eluting with 20-60% ethyl acetate in hexanes, to afford the title compound as a colourless oil which foamed under high vacuum (50 mg).

reactant | Ammonium formate | 1.9 mmol, 122 mg | C(=O)[O-].[NH4+]
reactant | 3-[(8-chloro-2,3-dimethyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.19 mmol, 100 mg | ClC1=C(C=CC=2C(N(C(OC21)C)C)=O)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)O[C@H](COC)C | C25H27ClN4O6
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | 3-[(2,3-Dimethyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | CC1OC2=C(C(N1C)=O)C=CC(=C2)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)O[C@H](COC)C | C25H28N4O6
